US08183246B2
6-[(5,6-Diphenylfuro[2,3-d]pyrimidin-4-yl)amino]hexanoic acid methyl ester
Stir 55 mg (0.131 mmol) 6-[(6-bromo-5-phenylfuro[2,3-d]pyrimidin-4-yl)amino]hexanoic acid methyl ester, 0.131 ml of 2 M aqueous sodium carbonate solution (0.26 mmol), 4.6 mg (0.006 mmol) bis(triphenylphosphine)palladium(II) chloride and 20 mg (0.164 mmol) phenylboronic acid under argon in 0.4 ml DMSO for 1 h at 80° C. After cooling, purify the mixture directly by preparative RP-HPLC (gradient: water/acetonitrile). 35 mg (64.1% of theor.) of the target compound is obtained.

reactant | 6-[(6-bromo-5-phenylfuro[2,3-d]pyrimidin-4-yl)amino]hexanoic acid methyl ester | 0.131 mmol, 55 mg | COC(CCCCCNC=1C2=C(N=CN1)OC(=C2C2=CC=CC=C2)Br)=O | C19H20BrN3O3
reactant | sodium carbonate | 0.26 mmol, 2 M, 0.131 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | phenylboronic acid | 0.164 mmol, 20 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
solvent | DMSO | 0.4 ml | CS(=O)C | C2H6OS
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.006 mmol, 4.6 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 6-[(5,6-Diphenylfuro[2,3-d]pyrimidin-4-yl)amino]hexanoic acid methyl ester | COC(CCCCCNC=1C2=C(N=CN1)OC(=C2C2=CC=CC=C2)C2=CC=CC=C2)=O | C25H25N3O3
